US06140320
Part B: Preparation of 5-Butyl-7-chloro-1,5-dihydro-5-(trifluoromethyl)-4,1-benzoxazepin-2(3H)-one
To a stirred ice-cooled solution of 185 mg of 6-amino-3-chloro-α-butyl-α-(trifluoromethyl)benzyl alcohol in 15 mL of dry ether was added 0.100 mL of cry pyridine and 0.060 mL of bromoacetyl bromide. After 30 min, the reaction mixture was diluted with ether, washed with water and aqueous sodium bicarbonate, dried and evaporated. The residue was dissolved in 8 mL of dry DMF and was treated at room temperature with 40 mg of 100% sodium hydride for 16 h. The reaction was partitioned between ethyl acetate and water and the ethyl acetate layer was washed with brine, dried, and evaporated. The crude product was purified first by column chromatography over silica gel (elution with ethyl acetate/hexanes 1:3), and then by preparative silica gel TLC. (elution with 2.5% methanol in methylene chloride) affording 32 mg of the title compound as an amorphous solid: HRMS: Calcd. for C14H16NO2ClF3 (M+H)+ : 322.082166. Found: 322.080685.

reactant | 6-amino-3-chloro-α-butyl-α-(trifluoromethyl)benzyl alcohol | 185 mg | NC1=CC=C(C=C1C(C(F)(F)F)(CCCC)O)Cl | C12H15ClF3NO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | bromoacetyl bromide | 0.060 mL | BrCC(=O)Br | C2H2Br2O
solvent | ether | 15 mL | CCOCC | C4H10O
product | 5-Butyl-7-chloro-1,5-dihydro-5-(trifluoromethyl)-4,1-benzoxazepin-2(3H)-one | 32 mg | C(CCC)C1(OCC(NC2=C1C=C(C=C2)Cl)=O)C(F)(F)F | C14H15ClF3NO2
